US07943607B2
3-[(1,1-Dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide
10% Palladium on carbon (30 mg) was added to 3-{[1,1-dioxido-2-(phenylmethyl)-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide (100 mg; 0.17 mmol) in dry THF (4 mL) and dry ethanol (4 mL) under an argon atmosphere. The reaction was degassed and placed under a hydrogen atmosphere then stirred for 24 hours at 50° C. and 20 bar. The mixture was filtered through diatomaceous earth and the filtrate evaporated. Purification via column chromatography, eluting with 50-100% ethyl acetate in isohexane, yielded a colourless oil which solidified under vacuum to give the title compound as a white foam (21 mg).

reactant | 3-{[1,1-dioxido-2-(phenylmethyl)-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.17 mmol, 100 mg | O=S1(N(CCOC2=C1C=CC(=C2)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)O[C@H](CO)C)CC2=CC=CC=C2)=O | C29H30N4O7S
catalyst | Palladium on carbon | 30 mg | [Pd] | Pd
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-[(1,1-Dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 21 mg | O=S1(NCCOC2=C1C=CC(=C2)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)O[C@H](CO)C)=O | C22H24N4O7S
